US06077962
A solution of N-benzyloxycarbonyl-N-neohexyl-L-aspartic acid, in acetic anhydride with a catalytic amount of phosphoric acid, is heated at reflux for 0.5 to 5 hours, is cooled to room temperature, and is concentrated under reduced pressure, with heating. The residual material is dissolved in water, then neutralized with aqueous sodium hydroxide. The resulting precipitate is collected by vacuum filtration, and is recrystallized to provide substantially pure N-neohexyl-L-aspartic anhydride.

reactant | N-benzyloxycarbonyl-N-neohexyl-L-aspartic acid | C(C1=CC=CC=C1)OC(=O)N([C@@H](CC(=O)O)C(=O)O)CCC(C)(C)C | C18H25NO6
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-neohexyl-L-aspartic anhydride | C(CC(C)(C)C)N[C@H]1CC(=O)OC1=O | C10H17NO3
